US05665718
1.9 g (11.1 mmol) of chloroacetic anhydride were added to a solution of 2.8 g (9.68 mmol) of (E)-and/or (Z)-(S)-1-(aminohydroxyimino-methyl)-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one in 25 ml N,N-dimethylformamide and the mixture was stirred at room temperature for 1.5 hours. Subsequently, it was heated to 105° for 2 hours. The solution was evaporated and the residue was partitioned between 2N sodium hydroxide solution and methylene chloride. The aqueous phase was back-washed with methylene chloride and the organic phases were dried with magnesium sulfate, filtered and evaporated. The residue obtained was crystallized from methylene chloride/ethanol. There were obtained 2.4 g (71%) of (S)-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one as a beige powder of m.p. 210°-213°.

reactant | chloroacetic anhydride | 11.1 mmol, 1.9 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
reactant | (Z)-(S)-1-(aminohydroxyimino-methyl)-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one | N\C(\C=1N=CN2C1[C@H]1N(C(C3=C2C=CS3)=O)CC1)=N/O | C12H11N5O2S
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | (S)-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one | 2.4 g, 71% | ClCC1=NC(=NO1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CS3)=O)CC1 | C14H10ClN5O2S
